US04690931
1. 2-(4-Benzylpiperidino)-4'-ethylpropiophenone
A mixture of 17.2 g of 2-bromo-4'-ethylpropiophenone, 12.5 g of 4-benzylpiperidine and 9.9 g of potassium carbonate in 250 ml of dry ethanol is heated under reflux for 4 hours, with stirring. The inorganic product is filtered off and washed with ethanol and the alcohol phase is concentrated in vacuo. The oily residue is taken up in diethyl ether and the mixture is extracted twice with dilute hydrochloric acid. After it has been rendered clearly alkaline with sodium hydroxide, the acid aqueous phase is then extracted three times with ethyl acetate. The organic phases are combined, washed with water until the washings are neutral, dried and evaporated in vauco. This give 19.15 g of an oily residue.

reactant | 2-bromo-4'-ethylpropiophenone | 17.2 g | BrC(C(=O)C1=CC=C(C=C1)CC)C | C11H13BrO
reactant | 4-benzylpiperidine | 12.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 9.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(4-Benzylpiperidino)-4'-ethylpropiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)CC)C | C23H29NO
